US05464847
Dissolve 3.35 g of cyclopropyl(3-pyridyl)methanol, the compound obtained in the preceding step, in 75 ml of dioxane and add 13.66 g of manganese dioxide. After 4 hours of stirring under reflux, filter the reaction medium while hot through Celite. The organic solution yields, after evaporating under vacuum, a residue which is purified by chromatography on a silica column, using a mixture of cyclohexane and ethyl acetate (1:1 V/V) as eluent, to obtain cyclopropyl 3-pyridyl ketone.

reactant | cyclopropyl(3-pyridyl)methanol | 3.35 g | C1(CC1)C(O)C=1C=NC=CC1 | C9H11NO
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 13.66 g | [O-2].[O-2].[Mn+4]
product | cyclopropyl 3-pyridyl ketone | Yield: 80% | N1=CC(=CC=C1)C(=O)C1CC1 | C9H9NO
